US07763609B2
A mixture of (S)-tert-butyl 4-(3-bromophenyl)-1,4-dimethyl-6-oxo-tetrahydropyrimidin-2(1H)-ylidenecarbamate (CF2; R1═R6=Me) (0.25 g, 0.6 mmol), 5-chloro-2-hydroxyphenylboronic acid (R21=5-chloro-2-hydroxyphenyl; 0.2 g, 1.2 mmol, 2 eq), Fibrecat (4.26% of Pd, 0.7 g) and 1N aq. K2CO3 (0.5 mL) in dimethoxyethane (DME, 10 mL) or tert-butanol (10 mL) in a 20 mL Smith process vial equipped with stir a bar was sealed and heated in an Emrys optimizer at 110° C. for 15 min. After cooling, the reaction mixture was transferred to a pre-packed Si-Carbonate column and eluted with MeOH/CH2Cl2 (1:1). The eluant was collected and concentrated under reduced pressure to give 0.32 g of the crude product as an oil. The crude product was purified by silica gel chromatography (20-50% EtOAc/hexanes gradient) to yield 0.13 g (0.3 mmol, 48%) of (S)-tert-butyl 4-(3-(3-chloro-6-hydroxyphenyl)-phenyl)-1,4-dimethyl-6-oxo-tetrahydropyrimidin-2(1H)-ylidenecarbamate (CF3; R1═R6=Me, R21=3-chloro-6-hydroxyphenyl) as a white solid. 1HNMR (CDCl3, 300 MHz): δ 7.48-4.32 (m, 2H), 7.20 (m, 3H), 6.84 (m, 2H), 5.68 (br s, 1H), 3.28 (d, J=15.7 Hz, 1H), 3.21 (s, 3H), 2.96 (d, J=15.3 Hz, 1H), 1.68 (s, 3H), 1.53 (s, 9H). MS (ESI): MH+=443.7, 445.7; M+−56=388.0. HPLC Rt (A)=6.99 min.

reactant | (S)-tert-butyl 4-(3-bromophenyl)-1,4-dimethyl-6-oxo-tetrahydropyrimidin-2(1H)-ylidenecarbamate | 0.6 mmol, 0.25 g | BrC=1C=C(C=CC1)[C@]1(NC(N(C(C1)=O)C)=NC(OC(C)(C)C)=O)C | C17H22BrN3O3
reactant | 5-chloro-2-hydroxyphenylboronic acid | 1.2 mmol, 0.2 g, 2 eq | ClC=1C=CC(=C(C1)B(O)O)O | C6H6BClO3
reactant | K2CO3 | 1N, 0.5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
catalyst | Pd | [Pd] | Pd
product | (S)-tert-butyl 4-(3-(3-chloro-6-hydroxyphenyl)-phenyl)-1,4-dimethyl-6-oxo-tetrahydropyrimidin-2(1H)-ylidenecarbamate | 0.3 mmol, 0.13 g, 48% | ClC=1C=C(C(=CC1)O)C=1C=C(C=CC1)[C@]1(NC(N(C(C1)=O)C)=NC(OC(C)(C)C)=O)C | C23H26ClN3O4
